US08466191B2
methyl 3-amino-3-(4-chlorophenyl)propionate
The title compound was prepared following the method for preparing Intermediate 6 except that 3-amino-3-(3,4-dimethoxy-phenyl)-propionic acid was substituted with 3-amino-3-(4-chlorophenyl)propionic acid. 1H NMR (CDCl3): δ 7.24-7.32 (m, 5H), 4.38 (t, 1H, J=5 Hz), 3.65 (s, 3H), 2.61 (d, 2H, J=5 Hz), 1.80 (s, 2H).

reactant | 3-amino-3-(3,4-dimethoxy-phenyl)-propionic acid | NC(CC(=O)O)C1=CC(=C(C=C1)OC)OC | C11H15NO4
reactant | 3-amino-3-(4-chlorophenyl)propionic acid | NC(CC(=O)O)C1=CC=C(C=C1)Cl | C9H10ClNO2
product | methyl 3-amino-3-(4-chlorophenyl)propionate | NC(CC(=O)OC)C1=CC=C(C=C1)Cl | C10H12ClNO2
